US09340538B2
Step E: (S)-3-methylmorpholine-3-carboxylic acid
(S)-benzyl 4-benzyl-3-methylmorpholine-3-carboxylate (3.26 g, 10 mmol) was reacted with H2 by Pd/C catalysis (10%, 0.33 g) according to the procedure as described in Example 34, Step C to give the title compound as a gray solid (0.97 g, 67%). The compound was characterized by the following spectroscopic data:

reactant | (S)-benzyl 4-benzyl-3-methylmorpholine-3-carboxylate | 10 mmol, 3.26 g | C(C1=CC=CC=C1)N1[C@@](COCC1)(C(=O)OCC1=CC=CC=C1)C | C20H23NO3
catalyst | Pd/C | [Pd] | Pd
product | (S)-3-methylmorpholine-3-carboxylic acid | 0.97 g, 67% | C[C@@]1(NCCOC1)C(=O)O | C6H11NO3
